US06992087B2
Preparation of 5-ethyl-4,5,6,7-tetrahydro-1-benzothiophen-4-amine
Following the procedure for the preparation of 4,5,6,7-tetrahydro-1-benzofuran-4-amine but substituting 5-ethyl-6,7-dihydro-1-benzothiophen-4(5H)-one and making non-critical variations provided the title compound as a oil: 1H NMR (400 MHz, CDCl3) δ) 7.10, 7.05, 6.99, 3.98, 3.65, 2.87-2.73, 2.06-1.90, 1.74-1.19, 1.05-0.97. (MS/CI) calcd for C10H15NS+H 182.3, found 181.9.

reactant | 4,5,6,7-tetrahydro-1-benzofuran-4-amine | O1C=CC2=C1CCCC2N | C8H11NO
reactant | 5-ethyl-6,7-dihydro-1-benzothiophen-4(5H)-one | C(C)C1CCC2=C(C=CS2)C1=O | C10H12OS
product | 5-ethyl-4,5,6,7-tetrahydro-1-benzothiophen-4-amine | C(C)C1CCC2=C(C=CS2)C1N | C10H15NS
